### PR TITLE
[Merged by Bors] - Add the Mittag-Leffler expansion for cotangent

### PR DESCRIPTION
**Pull request by CBirkbeck**
This PR continues the work from #25448.

Original PR: https://github.com/leanprover-community/mathlib4/pull/25448

### CODE REVIEW

File: Mathlib/Analysis/SpecialFunctions/Log/Summable.lean [hunk 1]
```diff
@@ -87,7 +87,8 @@ lemma summable_log_one_add_of_summable (hf : Summable f) :
   rw [ofReal_log, ofReal_add, ofReal_one]
   linarith
 
-lemma multipliable_one_add_of_summable (hf : Summable f) : Multipliable (fun i ↦ 1 + f i) := by
+protected lemma multipliable_one_add_of_summable (hf : Summable f) :
```
Comment (riccardobrasca) [inline Mathlib/Analysis/SpecialFunctions/Log/Summable.lean:90]: It depends on the convention in the rest of the file, but what about a name that allows dot notation?

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Cotangent.lean [hunk 2]
```diff
@@ -46,3 +56,169 @@ theorem pi_mul_cot_pi_q_exp (z : ℍ) :
...
+  rw [show (sin (π * x) / (π * x)) = sin (π * x) * (1 / (π * x)) by ring]
+  apply (Filter.Tendsto.mul_const (b := 1 / (π * x)) (tendsto_euler_sin_prod x)).congr
+  exact fun n ↦ by field_simp [sineTerm, Real.pi_ne_zero, sub_eq_add_neg]
+
+theorem multipliable_sineTerm (x : ℂ) : Multipliable fun i ↦ (1 + sineTerm x i) := by
+  apply multipliable_one_add_of_summable
+  have := (summable_pow_div_add (x ^ 2) 2 1 (Nat.one_lt_two))
+  simpa [sineTerm] using this
+
+lemma euler_sineTerm_tprod (x : ℂ) (hx : x ∈ ℂ_ℤ) :
```
Comment (riccardobrasca) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Cotangent.lean]:
```suggestion
lemma euler_sineTerm_tprod {x : ℂ} (hx : x ∈ ℂ_ℤ) :
```

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Cotangent.lean [hunk 3]
```diff
@@ -46,3 +56,169 @@ theorem pi_mul_cot_pi_q_exp (z : ℍ) :
...
+    ∏' i : ℕ, (1 + sineTerm x i) = Complex.sin (π * x) / (π * x) := by
+  rw [← Multipliable.hasProd_iff (multipliable_sineTerm x) ,
+    Multipliable.hasProd_iff_tendsto_nat (multipliable_sineTerm x )]
+  exact tendsto_euler_sin_prod' x (by apply integerComplement.ne_zero hx)
+
+private lemma sineTerm_bound_aux (Z : Set ℂ) (hZ : IsCompact Z) :
```
Comment (riccardobrasca) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Cotangent.lean]:
```suggestion
private lemma sineTerm_bound_aux {Z : Set ℂ} (hZ : IsCompact Z) :
```

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Cotangent.lean [hunk 4]
```diff
@@ -46,3 +56,169 @@ theorem pi_mul_cot_pi_q_exp (z : ℍ) :
...
+    apply le_trans (hs x hx) (le_abs_self s)
+
+theorem multipliableUniformlyOn_euler_sin_prod_on_compact {Z : Set ℂ} (hZC : IsCompact Z) :
+    MultipliableUniformlyOn (fun n : ℕ => fun z : ℂ => (1 + sineTerm z n)) {Z} := by
+  obtain ⟨u, hu, hu2⟩ := sineTerm_bound_aux Z hZC
+  refine Summable.multipliableUniformlyOn_nat_one_add hZC hu ?_ ?_
+  · filter_upwards with n z hz using hu2 n z hz
+  · fun_prop
+
+theorem HasProdUniformlyOn_sineTerm_prod_on_compact {Z : Set ℂ} (hZ2 : Z ⊆ ℂ_ℤ )
```
Comment (riccardobrasca) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Cotangent.lean]: Can you use a `variable {X : Set ℂ}` line?

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Cotangent.lean [hunk 5]
```diff
@@ -46,3 +56,169 @@ theorem pi_mul_cot_pi_q_exp (z : ℍ) :
...
+    (hZC : IsCompact Z) :
+    HasProdUniformlyOn (fun n : ℕ => fun z : ℂ => (1 + sineTerm z n))
+    (fun x => (Complex.sin (↑π * x) / (↑π * x))) {Z} := by
+  apply (multipliableUniformlyOn_euler_sin_prod_on_compact hZC).hasProdUniformlyOn.congr_right
+  refine fun s hs x hx => euler_sineTerm_tprod x (by aesop)
```
Comment (riccardobrasca) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Cotangent.lean]:
```suggestion
  exact fun s hs x hx => euler_sineTerm_tprod x (by aesop)
```

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Cotangent.lean [hunk 6]
```diff
@@ -46,3 +56,169 @@ theorem pi_mul_cot_pi_q_exp (z : ℍ) :
...
+
+theorem HasProdLocallyUniformlyOn_euler_sin_prod :
+    HasProdLocallyUniformlyOn (fun n : ℕ => fun z : ℂ => (1 + sineTerm z n))
+    (fun x => (Complex.sin (π * x) / (π * x))) ℂ_ℤ := by
+  apply hasProdLocallyUniformlyOn_of_forall_compact (by apply isOpen_compl_range_intCast)
+  refine fun _ hZ hZC => HasProdUniformlyOn_sineTerm_prod_on_compact hZ hZC
```
Comment (riccardobrasca) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Cotangent.lean]:
```suggestion
  exact fun _ hZ hZC => HasProdUniformlyOn_sineTerm_prod_on_compact hZ hZC
```

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Cotangent.lean [hunk 7]
```diff
@@ -46,3 +56,169 @@ theorem pi_mul_cot_pi_q_exp (z : ℍ) :
...
+
+theorem sin_pi_z_ne_zero {z : ℂ} (hz : z ∈ ℂ_ℤ ) : Complex.sin (π * z) ≠ 0 := by
+  apply Complex.sin_ne_zero_iff.2
+  intro k
+  nth_rw 2 [mul_comm]
+  refine Injective.ne (mul_right_injective₀ (ofReal_ne_zero.mpr Real.pi_ne_zero)) (by aesop)
```
Comment (riccardobrasca) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Cotangent.lean]:
```suggestion
  exact Injective.ne (mul_right_injective₀ (ofReal_ne_zero.mpr Real.pi_ne_zero)) (by aesop)
```

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Cotangent.lean [hunk 8]
```diff
@@ -46,3 +56,169 @@ theorem pi_mul_cot_pi_q_exp (z : ℍ) :
...
+
+theorem tendsto_logDeriv_euler_sin_div (x : ℂ) (hx : x ∈ ℂ_ℤ ) :
+    Tendsto (fun n : ℕ ↦ logDeriv (fun z ↦ ∏ j ∈ Finset.range n, (1 + sineTerm z j)) x)
+        atTop (𝓝 <| logDeriv (fun t ↦ (Complex.sin (π * t) / (π * t))) x) := by
+  refine logDeriv_tendsto (by apply isOpen_compl_range_intCast) ⟨x, hx⟩
```
Comment (riccardobrasca) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Cotangent.lean]:
```suggestion
  exact logDeriv_tendsto (by apply isOpen_compl_range_intCast) ⟨x, hx⟩
```

Comment (riccardobrasca) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Cotangent.lean]: Can you avoid the apply here? Maybe using the `..` notation.

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Cotangent.lean [hunk 9]
```diff
@@ -46,3 +56,169 @@ theorem pi_mul_cot_pi_q_exp (z : ℍ) :
...
+      HasProdLocallyUniformlyOn_euler_sin_prod.tendstoLocallyUniformlyOn_finsetRange ?_ ?_
+  · filter_upwards with n using by fun_prop
+  · simp only [Set.mem_setOf_eq, ne_eq, div_eq_zero_iff, mul_eq_zero, ofReal_eq_zero, not_or]
+    refine ⟨sin_pi_z_ne_zero hx, Real.pi_ne_zero , integerComplement.ne_zero hx⟩
```
Comment (riccardobrasca) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Cotangent.lean]:
```suggestion
    exact ⟨sin_pi_z_ne_zero hx, Real.pi_ne_zero , integerComplement.ne_zero hx⟩
```

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Cotangent.lean [hunk 10]
```diff
@@ -46,3 +56,169 @@ theorem pi_mul_cot_pi_q_exp (z : ℍ) :
...
+theorem logDeriv_sin_div_eq_cot (z : ℂ) (hz : z ∈ ℂ_ℤ ) :
+    logDeriv (fun t ↦ (Complex.sin (π * t) / (π * t))) z = π * cot (π * z) - 1 / z := by
+  have : (fun t ↦ (Complex.sin (π * t)/ (π * t))) = fun z ↦
+    (Complex.sin ∘ fun t ↦ π * t) z / (π * z) := by rfl
+  rw [this, logDeriv_div _ (by apply sin_pi_z_ne_zero hz) ?_
+    (DifferentiableAt.comp _ (Complex.differentiableAt_sin) (by fun_prop)) (by fun_prop),
+    logDeriv_comp (Complex.differentiableAt_sin) (by fun_prop), Complex.logDeriv_sin,
+    deriv_const_mul _ (by fun_prop), deriv_id'', logDeriv_const_mul, logDeriv_id']
+  · field_simp [mul_comm]
+  · simpa only [ne_eq, ofReal_eq_zero] using Real.pi_ne_zero
```
Comment (riccardobrasca) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Cotangent.lean]: Can you unsqueeze the `simpa`?

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Cotangent.lean [hunk 11]
```diff
@@ -46,3 +56,169 @@ theorem pi_mul_cot_pi_q_exp (z : ℍ) :
...
+  · simp only [Set.mem_setOf_eq, ne_eq, mul_eq_zero, ofReal_eq_zero, not_or]
+    refine ⟨Real.pi_ne_zero, integerComplement.ne_zero hz⟩
```
Comment (riccardobrasca) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Cotangent.lean]:
```suggestion
    exact ⟨Real.pi_ne_zero, integerComplement.ne_zero hz⟩
```

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Cotangent.lean [hunk 12]
```diff
@@ -46,3 +56,169 @@ theorem pi_mul_cot_pi_q_exp (z : ℍ) :
...
+
+/-- The term in the infinite sum expansion of cot. -/
+noncomputable abbrev cotTerm (x : ℂ) (n : ℕ) : ℂ := 1 / (x - (n + 1)) + 1 / (x + (n + 1))
+
+theorem logDeriv_sineTerm_eq_cotTerm (x : ℂ) (hx : x ∈ ℂ_ℤ ) (i : ℕ) :
```
Comment (riccardobrasca) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Cotangent.lean]:
```suggestion
theorem logDeriv_sineTerm_eq_cotTerm {x : ℂ} (hx : x ∈ ℂ_ℤ ) (i : ℕ) :
```

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Cotangent.lean [hunk 13]
```diff
@@ -46,3 +56,169 @@ theorem pi_mul_cot_pi_q_exp (z : ℍ) :
...
+    logDeriv (fun (z : ℂ) ↦ 1 + sineTerm z i) x = cotTerm x i := by
+  have h1 := integerComplement_add_ne_zero hx (i + 1)
+  have h2 : ((x : ℂ) - (i + 1)) ≠ 0 := by
+    simpa [sub_eq_add_neg] using integerComplement_add_ne_zero hx (-(i + 1))
+  have h3 : (i+1)^2 + -x^2 ≠ 0 := by
+      have := (integerComplement_pow_two_ne_pow_two hx ((i + 1) : ℤ)).symm
+      rw [← sub_eq_add_neg, sub_ne_zero]
+      aesop
```
Comment (riccardobrasca) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Cotangent.lean:170]: Does `aesop` work without the `symm` in the `have` statement?

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Cotangent.lean [hunk 14]
```diff
@@ -46,3 +56,169 @@ theorem pi_mul_cot_pi_q_exp (z : ℍ) :
...
+    differentiableAt_fun_id, deriv_fun_pow'', Nat.cast_ofNat, Nat.add_one_sub_one, pow_one,
+    deriv_id'', mul_one, cotTerm, one_div] at *
+  field_simp [Nat.cast_add_one_ne_zero i]
+  ring
+
+lemma logDeriv_prod_sineTerm_eq_sum_cotTerm {x : ℂ} (hx : x ∈ ℂ_ℤ) (n : ℕ) :
+    logDeriv (fun (z : ℂ) ↦ ∏ j ∈ Finset.range n, (1 + sineTerm z j)) x =
+    ∑ j ∈ Finset.range n, cotTerm x j := by
+  rw [logDeriv_prod]
+  · simp_rw [logDeriv_sineTerm_eq_cotTerm x hx _]
```
Comment (riccardobrasca) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Cotangent.lean]:
```suggestion
  · simp_rw [logDeriv_sineTerm_eq_cotTerm x hx]
```
Untested.

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Cotangent.lean [hunk 15]
```diff
@@ -46,3 +56,169 @@ theorem pi_mul_cot_pi_q_exp (z : ℍ) :
...
+  · exact fun i _ ↦ sineTerm_ne_zero hx i
+  · fun_prop
+
+theorem tendsto_logDeriv_euler_cot_sub (x : ℂ) (hx : x ∈ ℂ_ℤ ) :
```
Comment (riccardobrasca) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Cotangent.lean]:
```suggestion
theorem tendsto_logDeriv_euler_cot_sub {x : ℂ} (hx : x ∈ ℂ_ℤ ) :
```

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Cotangent.lean [hunk 16]
```diff
@@ -46,3 +56,169 @@ theorem pi_mul_cot_pi_q_exp (z : ℍ) :
...
+    Tendsto (fun n : ℕ => ∑ j ∈ Finset.range n, cotTerm x j) atTop
+    (𝓝 <| π * cot (π * x)- 1 / x) := by
+  simp_rw [← logDeriv_sin_div_eq_cot x hx, ← logDeriv_prod_sineTerm_eq_sum_cotTerm hx]
+  simpa using tendsto_logDeriv_euler_sin_div x hx
+
+lemma cotTerm_identity (z : ℂ) (hz : z ∈ ℂ_ℤ) (n : ℕ) :
```
Comment (riccardobrasca) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Cotangent.lean]:
```suggestion
lemma cotTerm_identity {z : ℂ} (hz : z ∈ ℂ_ℤ) (n : ℕ) :
```
Also, you can probably use a `variable` line (and so use the same letter in all declarations...)

File: Mathlib/Analysis/SpecialFunctions/Log/Summable.lean (hunk 1 above)
Comment (CBirkbeck) [reply Mathlib/Analysis/SpecialFunctions/Log/Summable.lean:90]: so I added the protected since there is a more general version with the same name. I'm not sure why the other versions dont use the dot notation. But this is in the `Real` namespace, can one do `Real.Summable.foo`?

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Cotangent.lean (hunk 13 above)
Comment (CBirkbeck) [reply Mathlib/Analysis/SpecialFunctions/Trigonometric/Cotangent.lean:170]: It does need the have unfortunately.

File: Mathlib/Analysis/SpecialFunctions/Log/Summable.lean (hunk 1 above)
Comment (riccardobrasca) [reply Mathlib/Analysis/SpecialFunctions/Log/Summable.lean:90]: If the other declarations don't use dot notation let's follow the convention.

**Comment by riccardobrasca** [comment]
Thanks!

bors merge

**Comment by riccardobrasca** [comment]
Can you please merge master and fix the error? Thanks!

bors d+

**Comment by riccardobrasca** [comment]
Can you please merge master and fix the error? Thanks!

bors d+
